US09193741B2
Synthesis of 1-(4-(5-amino-2-(3-(4-fluorophenyl)propyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone
This compound was prepared from 2-(3-(4-fluorophenyl)propyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidin-5-amine using 4-chlorophenoxyacetic acid in a yield of 33%, according to the procedure for the synthesis of example 50.

reactant | 2-(3-(4-fluorophenyl)propyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidin-5-amine | FC1=CC=C(C=C1)CCCC=1SC=2N=C(N=C(C2N1)N1CCNCC1)N | C18H21FN6S
reactant | 4-chlorophenoxyacetic acid | ClC1=CC=C(OCC(=O)O)C=C1 | C8H7ClO3
product | 1-(4-(5-amino-2-(3-(4-fluorophenyl)propyl)thiazolo[5,4-d]pyrimidin-7-yl)piperazin-1-yl)-2-(4-chlorophenoxy)ethanone | yield of 33% | NC=1N=C(C2=C(N1)SC(=N2)CCCC2=CC=C(C=C2)F)N2CCN(CC2)C(COC2=CC=C(C=C2)Cl)=O | C26H26ClFN6O2S
